US04153607
75 parts of 2-phenyl-4-amino-5-cyanothiazole in 300 parts of dimethylformamide and 15 parts of triethylamine are reacted with 13 parts of hydrogen sulfide as described in Example 1(a). 77 parts of 2-phenyl-4-amino-5-thiocarbamoylthiazole (89% of theory) of melting point 164°-167° C. are obtained.

reactant | 2-phenyl-4-amino-5-cyanothiazole | C1(=CC=CC=C1)C=1SC(=C(N1)N)C#N | C10H7N3S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | hydrogen sulfide | S | H2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-phenyl-4-amino-5-thiocarbamoylthiazole | 89% | C1(=CC=CC=C1)C=1SC(=C(N1)N)C(N)=S | C10H9N3S2
